US04713383
Seven grams of 3-(2-Carbamoylphenyl)-5-(4-chlorophenyl)-1H-1,2,4-triazole are dissolved in dry dimethylformamide (180 ml) at 50° C. Lead tetraacetate (10.4 g) is added under stirring and the reaction mixture is stirred under nitrogen for ten minutes. The reaction mixture is quenched in crushed ice (500 ml) containing concentrated hydrochloric acid (50 ml). The white solid which forms is collected, washed thoroughly with cold water and recrystallized from 2-methoxyethanol to afford 2-(4-chlorophenyl)-[1,2,4]-triazolo[1,5-c]quinazolin-5(6H)one, mp 315°-318°.

reactant | 3-(2-Carbamoylphenyl)-5-(4-chlorophenyl)-1H-1,2,4-triazole | Seven grams | C(N)(=O)C1=C(C=CC=C1)C1=NNC(=N1)C1=CC=C(C=C1)Cl | C15H11ClN4O
reactant | Lead tetraacetate | 10.4 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenyl)-[1,2,4]-triazolo[1,5-c]quinazolin-5(6H)one | ClC1=CC=C(C=C1)C1=NN2C(NC=3C=CC=CC3C2=N1)=O | C15H9ClN4O
